datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CN([C:20](=[O:10])OCC)CC.[O-:21]C1=CC=CC=C1>>CN([C:20]([O-:10])(OCC)[O:21]C1=CC=CC=C1)CC 21=20;20,10=10"
"[O:10]([K])C(C)/C([H])=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(C)C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])C(C)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[O]CC 10=20;20,21=21"
"[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[NH][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[NH][H] 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)[NH][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(C)C(CC)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[S]C(C)C(CC)[O]1 10=20;20,21=21"
"[H][S:10]C(CC)C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C(C)=C(C)C(CCC)[O:10]1>>[O-:10]C(CCC)/C(C)=C(C)\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[NH]CC.[Cl-]>>[Cl-].C[NH:10][H].CC[NH+:21]=[C:20]([NH][H])[NH]CC 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])C([H])C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C([H])C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CC.[O-:21]CCCCCC 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][S+:10](C([H])C([H])C(C)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C([H])[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10]([Li])[C:21]([O-:20])(OC)OC1=CC=CC=C1>>[O:20]=[C:21](OC)OC1=CC=CC=C1.[H][O:10][Li] 20=21;21,10=10"
"[H][NH:10]C(CC)C(C)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C([H])C(O)C(C)C(C)[OH+:10]1>>[OH:10]C(C)C(C)C(O)C([H])[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[O-:10]C([H])/C(O)=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[O:10]C([H])C(O)=C1[H] 10=20;20,21=21"
"[OH:10]C(CC)C(C)C([C:20](OCC)=[OH+:21])[H]>>[OH:21][C:20]1(OCC)[OH+:10]C(CC)C(C)C1[H] 10=20;20,21=21"
"[O:20]=[C:21](OCC)O[H].CC[O:10][K]>>CC[O+:10]([K])[C:21]([O-:20])(OCC)O[H] 10=21;21,20=20"
"CC[O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[O:10]([Na])C(CC)C(C)C(C)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)C)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21]C 10=20;20,21=21"
